US07858796B2
(10) 5-Phenyl-3-(4-piperidinyl)-1H-indole-7-carboxamide
To the solution of 5-Phenyl-3-[1-(phenylmethyl)-1,2,3,6-tetrahydro-4-pyridinyl]-1H-indole-7-carboxamide (2.66 g, 6.5 mmol) in ethanol (150 mL) and acetic acid (3 mL) was added Pd(OH)2 (20% by weight on carbon) (0.8 g,) at ambient temperature. The solution was stirred under 1 atm of hydrogen for 2 days. The reaction mixture was then filtered through Celite, neutralized with 5% sodium hydroxide solution, and extracted with ethyl acetate. The solvent was removed under reduced pressure to yield the desired product (1.45 g, 70%).

reactant | 5-Phenyl-3-[1-(phenylmethyl)-1,2,3,6-tetrahydro-4-pyridinyl]-1H-indole-7-carboxamide | 6.5 mmol, 2.66 g | C1(=CC=CC=C1)C=1C=C2C(=CNC2=C(C1)C(=O)N)C=1CCN(CC1)CC1=CC=CC=C1 | C27H25N3O
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 150 mL | C(C)O | C2H6O
solvent | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
catalyst | Pd(OH)2 | 0.8 g | [OH-].[OH-].[Pd+2]
product | 5-Phenyl-3-(4-piperidinyl)-1H-indole-7-carboxamide | 1.45 g, 70% | C1(=CC=CC=C1)C=1C=C2C(=CNC2=C(C1)C(=O)N)C1CCNCC1 | C20H21N3O
